US05736550
To a solution of 1,5-pentanediol (30 g, 0.29 mol) in dichloromethane/DMF (15/1, 320 ml) were added triethylamine (38.1 ml, 0.274 mol), dimethylaminopyridine (7.04 g, 57.6 mmol) and p-toluenesulfonic acid chloride (49.42 g, 0.259 mol) were in turn added at -30° C. and the mixture was stirred for 2.5 hours. To the reaction mixture was added purified water (200 ml) and the aqueous layer was extracted with chloroform (150 ml×3). The combined organic layer was washed succcessively with 5% aqueous hydrochloric acid (200 ml), saturated aqueous sodium hydrogen carbonate (200 ml) and saturated aqueous sodium chloride (200 ml), dried over anhydrous magnesium sulfate and the solvent was distilled off. The residue was chromatographed over silica gel and the fraction from ethyl acetate-hexane (1/1) gave 19.65 g of 5-hydroxypentyl p-toluenesulfonate. Yield=26%.

reactant | 1,5-pentanediol | 0.29 mol, 30 g | C(CCCCO)O | C5H12O2
reactant | triethylamine | 0.274 mol, 38.1 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 57.6 mmol, 7.04 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | p-toluenesulfonic acid chloride | 0.259 mol, 49.42 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane DMF | 320 ml | ClCCl.CN(C)C=O
product | 5-hydroxypentyl p-toluenesulfonate | 19.65 g, Yield=26% | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCO)C | C12H18O4S
